US07253165B2
Synthesis of (R)-1-(2,6-difluoro-benzylamino)-3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole, 2,6-difluorobenzylamine, and ethanol essentially as described above in Example 112. Purity by LC/MS=96%, [M+H]+=429.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | 2,6-difluorobenzylamine | FC1=C(CN)C(=CC=C1)F | C7H7F2N
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-(2,6-difluoro-benzylamino)-3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propan-2-ol | FC1=C(CNC[C@H](COC2=CC=C(C=C2)C2=NOC3=C2C=CC(=C3)F)O)C(=CC=C1)F | C23H19F3N2O3
